US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-pyrazol-1-yl-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide (H-97)
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (75 mg, 0.17 mmol) was dissolved in DMF (1 mL) at room temperature. K2CO3 (47 mg, 0.34 mmol) was added followed by 1-(3-bromopropyl)-pyrazole (64 mg, 0.34 mmol) (prepared from the reaction of 1,3-dibromopropane and pyrazole with sodium hydride in tetrahydrofuran). The reaction was allowed to stir at 70° C. for 3 hrs. The reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water, then extracted three times with ethyl acetate. Organic layers were washed with brine, dried over MgSO4, filtered and concentrated down. The crude residue was purified by silica gel chromatography (1/99 methanol/dichloromethane-3/97 methanol/dichloromethane gradient) to afford the product.

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.17 mmol, 75 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | K2CO3 | 0.34 mmol, 47 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(3-bromopropyl)-pyrazole | 0.34 mmol, 64 mg | BrCCCN1N=CC=C1 | C6H9BrN2
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-pyrazol-1-yl-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCCN1N=CC=C1)=O)C | C31H31ClN4O3
